US07579488B2
F. 1-{4-[1-Ethyl-1-(6-hydroxy-benzofuran-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one.
A solution of 1-{4-[1-(6-benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one (5.90 g, 11.8 mmol) in EtOAc (20.0 mL) is added a slurry of Pd—C (590 mg, 10%) in MeOH (20.0 mL) at RT. The resulting mixture is stirred under hydrogen balloon pressure for 2 h. The mixture is filtered through a pad of celite and the filtrate is concentrated, the residue is purified with 20-30% EtOAc/Hex to afford the title compound (4.35 g, 90%).

reactant | 1-{4-[1-(6-benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 11.8 mmol, 5.90 g | C(C1=CC=CC=C1)OC1=CC2=C(C=C(O2)C(CC)(CC)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C)C=C1 | C33H38O4
solvent | EtOAc | 20.0 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 20.0 mL | CO | CH4O
catalyst | Pd—C | 590 mg | [Pd] | Pd
product | 1-{4-[1-Ethyl-1-(6-hydroxy-benzofuran-2-yl)-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 4.35 g, 90% | C(C)C(CC)(C=1OC2=C(C1)C=CC(=C2)O)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C | C26H32O4
